US06388084B1
N-[[1-(2-methoxyethyl)cyclopentyl]carbonyl]-4-[1,6-dimethyl-4-(trifluoromethyl)-2-oxo-3-pyridinyl]-L-phenylalanine (mp 181-183° C.) was prepared from 4-[1,6-dimethyl-4-(trifluoromethyl)-2-oxo-3-pyridinyl]-L-phenylalanine methyl ester and 1-(2-methoxyethyl)cyclopentane carboxylic acid (obtained as described in WO 9910313) using the general procedures described in example 36. ES-HRMS m/e calcd for C26H31F3N2O5 (M+Na) 531.2077, found 531.2084.

reactant | 4-[1,6-dimethyl-4-(trifluoromethyl)-2-oxo-3-pyridinyl]-L-phenylalanine methyl ester | COC([C@@H](N)CC1=CC=C(C=C1)C=1C(N(C(=CC1C(F)(F)F)C)C)=O)=O | C18H19F3N2O3
reactant | 1-(2-methoxyethyl)cyclopentane carboxylic acid | COCCC1(CCCC1)C(=O)O | C9H16O3
product | N-[[1-(2-methoxyethyl)cyclopentyl]carbonyl]-4-[1,6-dimethyl-4-(trifluoromethyl)-2-oxo-3-pyridinyl]-L-phenylalanine | COCCC1(CCCC1)C(=O)N[C@@H](CC1=CC=C(C=C1)C=1C(N(C(=CC1C(F)(F)F)C)C)=O)C(=O)O | C26H31F3N2O5
